US07615643B2
Step B: Methyl 3-{[(1R)-1-(2-chlorophenyl)ethyl]oxy}-5-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1H -benzimidazol-1-yl]-2-thiophenecarboxylate
A 5.0 ml microwave vial was charged with 1.00 ml of THF, 286 mg (1.20 mmol) of methoxycarbonylsulfamoyl)triethylammonium hydroxide inner salt, and 154 mg (0.301 mmol) of methyl 5-{5-[(2-acetylhydrazino)carbonyl]-1H-benzimidazol-1-yl}-3-{[(1R)-1-(2-chlorophenyl)ethyl]oxy}-2-thiophene carboxylate. The reaction was heated in the microwave at 150° C. for 10 min. The crude was adsorbed onto silica gel and chromatographed to give 139 mg of a tan solid as the title compound, MS (APCI): 495 [M+H]+.

reactant | THF | 1.00 ml | C1CCOC1 | C4H8O
reactant | methyl 5-{5-[(2-acetylhydrazino)carbonyl]-1H-benzimidazol-1-yl}-3-{[(1R)-1-(2-chlorophenyl)ethyl]oxy}-2-thiophene carboxylate | 0.301 mmol, 154 mg | C(C)(=O)NNC(=O)C1=CC2=C(N(C=N2)C2=CC(=C(S2)C(=O)OC)O[C@H](C)C2=C(C=CC=C2)Cl)C=C1 | C24H21ClN4O5S
solvent | triethylammonium hydroxide | [OH-].C(C)[NH+](CC)CC
product | Methyl 3-{[(1R)-1-(2-chlorophenyl)ethyl]oxy}-5-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1H -benzimidazol-1-yl]-2-thiophenecarboxylate | 139 mg | ClC1=C(C=CC=C1)[C@@H](C)OC1=C(SC(=C1)N1C=NC2=C1C=CC(=C2)C=2OC(=NN2)C)C(=O)OC | C24H19ClN4O4S
